US09102662B2
Preparation of 2-nitro-4-piperidin-1-ylmethyl-benzoic acid hydrochloride
2-Nitro-4-(piperidine-1-carbonyl)-benzoic acid tert-butyl ester (1.87 mmol) was dissolved in dry THF and added drop-wise to 3.7 mL of borane tetrahydrofuran complex 1.0 M solution, at room temperature, under nitrogen, with stirring. The reaction was then refluxed for six hours, cooled to room temperature and treated carefully with 2N HCl (10 mL) After stirring for 15 minutes, solid K2CO3 was added in portions (1.75 g). The mixture was extracted with EtOAc (3×25 mL). The combined organic layers were dried over sodium sulphate and evaporated leaving an oil that by HPLC-MS analysis resulted a 4:6 mixture of the tertiary amine and the corresponding borane complex. The mixture was dissolved in DCM (1 mL) and treated with 4N HCl in dioxane (7 mL). After 4 days at room temperature, an off white was formed which was filtered, washed with dioxane (5 mL) and dried at 50° C. under vacuum. 0.40 g of title compound were obtained in 70% overall yield.

reactant | 2-Nitro-4-(piperidine-1-carbonyl)-benzoic acid tert-butyl ester | 1.87 mmol | C(C)(C)(C)OC(C1=C(C=C(C=C1)C(=O)N1CCCCC1)[N+](=O)[O-])=O | C17H22N2O5
reactant | HCl | 2N, 10 mL | Cl | ClH
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 4N | Cl | ClH
solvent | THF | C1CCOC1 | C4H8O
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | 2-nitro-4-piperidin-1-ylmethyl-benzoic acid hydrochloride | 0.40 g | Cl.[N+](=O)([O-])C1=C(C(=O)O)C=CC(=C1)CN1CCCCC1 | InChI=1S/C13H16N2O4.ClH/c16-13(17)11-5-4-10(8-12(11)15(18)19)9-14-6-2-1-3-7-14;/h4-5,8H,1-3,6-7,9H2,(H,16,17);1H
